US05185351
A solution of methyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(4-pyridyl)methyl-2-propenoate (3.1 g, 7.3 mmol) in ethanol (16 mL) was treated with 10% sodium hydroxide solution and the mixture was stirred for 18 hours at 25° C. The solution was concentrated in vacuum, water was added, the pH was adjusted to 6.5 and the resulting solid was filtered, washed with water and crystallized from methanol/ether to afford 0.48 g of (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(4-pyridyl)methyl-2-propenoic acid; mp 178°-182° C. (d).

reactant | methyl (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(4-pyridyl)methyl-2-propenoate | 7.3 mmol, 3.1 g | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OC)\CC1=CC=NC=C1)CC1=C(C=CC=C1)Cl | C24H26ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-(4-pyridyl)methyl-2-propenoic acid | 0.48 g | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)O)\CC1=CC=NC=C1)CC1=C(C=CC=C1)Cl | C23H24ClN3O2
